US05652239
a. 3,3',5,5'-Tetrachlorohydrazobenzene
To a stirred solution of 50% NaOH (20 mL) was added 3,5-dichloronitrobenzene (38.4 g, 200 mM) and the resulting solution was heated at 60° C. Zinc dust (15 g, 230 mM) was added in portions in such a way as to maintain the reaction temperature between 70° and 80° C. The resulting slurry was then diluted with 12 mL of 50% NaOH followed by 35 mL of water. An additional amount of zinc dust (20 g, 310 mM) was added in a single portion and the resulting suspension was heated to 70°-80° C. for 3 hours. The reaction mixture was then cooled to room temperature and the solid obtained was extracted with ethyl acetate. The extracts were dried over Na2SO4 and concentrated to 1/2 the original volume. An orange solid precipitated which was removed by filtration and discarded. The filtrates were diluted with hexane which caused a precipitate. This was then filtered, providing the titled compound as a yellow solid (11.3 g, 35%). NMR (d6 -DMSO): 8.38 (s, 2H), 6.82 (s, 2H), 6.67 (s, 4H). MS(CI): 323(M+1).

reactant | 3,5-dichloronitrobenzene | 200 mM, 38.4 g | ClC=1C=C(C=C(C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | water | 35 mL | O | H2O
solvent | NaOH | 12 mL | [OH-].[Na+]
catalyst | Zinc | 230 mM, 15 g | [Zn] | Zn
catalyst | zinc | 310 mM, 20 g | [Zn] | Zn
solvent | NaOH | 20 mL | [OH-].[Na+]
product | 3,3',5,5'-Tetrachlorohydrazobenzene | 11.3 g, 35% | ClC=1C=C(C=C(C1)Cl)NNC1=CC(=CC(=C1)Cl)Cl | C12H8Cl4N2
